US08729263B2
To a flask containing tert-butyl 4-methylenepiperidine-1-carboxylate (487 mg, 2.47 mmol) was added 0.5 M 9-borabicyclo[3.3.1]nonane in THF (5.4 mL, 2.72 mmol). The reaction was refluxed at 65° C. for 1 h then added to a degassed suspension of 3,6-dichloropyridazine (368 mg, 2.47 mmol), K2CO3 (1.0 g, 7.41 mmol), and PdCl2(dppf)CH2Cl2 (101 mg, 0.12 mmol) in 1,4-dioxane (5.2 mL) and water (0.88 mL). The resulting reaction mixture was heated at 60° C. for 3 h then cooled to RT and diluted with EtOAc. The suspension was filtered through celite and concentrated in vacuo. Silica gel chromatography, eluting with 0-100% EtOAc/heptane, afforded the product, tert-butyl 4-((6-chloropyridazin-3-yl)methyl)piperidine-1-carboxylate (376 mg, 1.21 mmol, 49% yield). 1H NMR (DMSO-d6) δ: 7.85 (d, J=8.8 Hz, 1H), 7.70 (d, J=8.8 Hz, 1H), 3.74-4.05 (m, 2H), 2.85 (d, J=7.3 Hz, 2H), 2.54-2.79 (m, 2H), 1.82-2.01 (m, 1H), 1.48-1.62 (m, 2H), 1.38 (s, 9H), 0.97-1.18 (m, 2H).

reactant | tert-butyl 4-methylenepiperidine-1-carboxylate | 2.47 mmol, 487 mg | C=C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO2
reactant | 9-borabicyclo[3.3.1]nonane | 0.5 M | C12CCCC(CCC1)B2 | C8H15B
reactant | THF | 2.72 mmol, 5.4 mL | C1CCOC1 | C4H8O
reactant | 3,6-dichloropyridazine | 2.47 mmol, 368 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | K2CO3 | 7.41 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 5.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.88 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-((6-chloropyridazin-3-yl)methyl)piperidine-1-carboxylate | 1.21 mmol, 376 mg, 49% yield | ClC1=CC=C(N=N1)CC1CCN(CC1)C(=O)OC(C)(C)C | C15H22ClN3O2
